US04885347
Preparation of t-butyl 4-(1,2,2,6,6-pentamethyl-4-piperidinyloxy)-4-oxoperoxybutanoate (C-VI)
Into a 500 ml flask equipped with a magnetic stirbar, thermometer, addition funnel, and nitrogen atmosphere sparger were placed 7.6 g (0.044 mole) of 1,2,2,6,6-pentamethyl-4-piperidinol, 4.4 g (0.044 mole) of triethylamine, and 100 ml of pentane. The addition funnel was charged with 9.7 g (0.044 mole) of 4-t-butylperoxy-4-oxobutanoyl chloride, 50 ml of methyl t-butyl ether and 50 ml of pentane. The acid chloride was added dropwise to the reaction mixture at a rate maintaining the temperature of the reaction less than 27° C. (about 70 min. for complete addition). After this addition, the reaction mixture was allowed to stir at ambient temperature for 45 minutes. To the mixture 100 ml of 5% aqueous sodium hydroxide (chilled to 5° C.) was then added with rapid stirring. The mixture was transferred to a separatory funnel with 100 ml of methyl t-butyl ether and 100 ml of pentane. The funnel was shaken and allowed to separate; and the aqueous phase was drawn off. The organic phase was extracted with 100 ml of aqueous 5% sodium hydroxide (chilled to 5° C.), and twice with 100 ml portions of cold (5° C.) water. The organic solution was dried with anhydrous sodium sulfate and the solvent was stripped using aspirator and high vacuum systems. The residue was transferred to a flask with 30 ml of pentane and treated with 5.3 g of decolorizing carbon (occasional swirling for 90 minutes). The mixture was diluted with 200 ml of pentane, filtered free from carbon, and stripped of solvent using aspirator and high vacuum. The product was a yellow oil weighing 9.7 g. Analysis showed an assay of 96.1% and corrected yield of 62.2%.

reactant | 1,2,2,6,6-pentamethyl-4-piperidinol | 0.044 mole, 7.6 g | CN1C(CC(CC1(C)C)O)(C)C | C10H21NO
reactant | triethylamine | 0.044 mole, 4.4 g | C(C)N(CC)CC | C6H15N
reactant | 4-t-butylperoxy-4-oxobutanoyl chloride | 0.044 mole, 9.7 g | C(C)(C)(C)OOC(CCC(=O)Cl)=O | C8H13ClO4
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | pentane | 100 ml | CCCCC | C5H12
solvent | methyl t-butyl ether | 100 ml | C(C)(C)(C)OC | C5H12O
solvent | pentane | 50 ml | CCCCC | C5H12
solvent | methyl t-butyl ether | 50 ml | C(C)(C)(C)OC | C5H12O
solvent | pentane | 100 ml | CCCCC | C5H12
product | t-butyl 4-(1,2,2,6,6-pentamethyl-4-piperidinyloxy)-4-oxoperoxybutanoate | yield of 62.2% | CN1C(CC(CC1(C)C)OC(CCC(=O)OOC(C)(C)C)=O)(C)C | C18H33NO5
